US04572805
In 30 ml of benzene, 3.0 g (0.0157 mol) of 4-cyano-2,3,5,6-tetrafluorophenol and 1.80 g (0.0173 mol) of methacrylic acid chloride were dissolved. The resultant solution, and 1.73 g (0.0173 mol) of calcium carbonate added thereto as a hydrogen chloride trapping agent were stirred under reflux for 32 hours. The resultant reaction mixture was cooled off and filtered to separate calcium carbonate. The filtrate was dried with magnesium sulfate and then evaporated with a rotary evaporator. Consequently, there was obtained 2.6 g of 4-cyano-2,3,5,6-tetrafluorophenyl methacrylate (yeild 63.9% and purity 95.4%). The analyses obtained of the novel substance for the determination of its chemical structure were the same as those of Example 2.

reactant | 4-cyano-2,3,5,6-tetrafluorophenol | 0.0157 mol, 3.0 g | C(#N)C1=C(C(=C(C(=C1F)F)O)F)F | C7HF4NO
reactant | methacrylic acid chloride | 0.0173 mol, 1.80 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | calcium carbonate | 0.0173 mol, 1.73 g | C([O-])([O-])=O.[Ca+2]
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 4-cyano-2,3,5,6-tetrafluorophenyl methacrylate | 2.6 g, 63.9% | C(C(=C)C)(=O)OC1=C(C(=C(C(=C1F)F)C#N)F)F | C11H5F4NO2
